US07858647B2
The 3-ethoxy-5-trifluoromethyl-thiophene-2-carboxylic acid methyl ester (mp.: 93.6° C.) was prepared from the known adduct 3-hydroxy-5-trifluoromethyl-thiophene-2-carboxylic acid methyl ester (Synthesis 2000, No. 8, 1078-1080) by alkylation with ethyl iodide in the presence of cesium carbonate in DMF as solvent.

reactant | 3-hydroxy-5-trifluoromethyl-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1O)C(F)(F)F | C7H5F3O3S
reactant | ethyl iodide | C(C)I | C2H5I
solvent | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-ethoxy-5-trifluoromethyl-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1OCC)C(F)(F)F | C9H9F3O3S
